US04107309
5-(Furfurylamino)-imidazo[1,2-d]-as-triazine
A 5.0 gm. portion of 5-(methylthio)-imidazo[1,2-d]-as-triazine is combined with 45 ml. of furfurylamine and refluxed for 2 hours. The mixture is allowed to stand at room temperature overnight. The gummy solid is collected and crystallized from 60 ml. of hot methanol, giving 2.75 gm. of the desired product as crystals, m.p. 212°-214° C.

reactant | 5-(methylthio)-imidazo[1,2-d]-as-triazine | CSC1=NN=CC=2N1C=CN2 | C6H6N4S
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
product | 5-(Furfurylamino)-imidazo[1,2-d]-as-triazine | C(C1=CC=CO1)NC1=NN=CC=2N1C=CN2 | C10H9N5O
